US04582837
2-(2'-Dimethylamino-4'-amino-phenyl)-imidazo[4,5-b]pyridine dihydrochloride
An amount of 2.83 gm of 2-(2'-dimethylamino-4'-nitrophenyl)-imidazo[4,5-b]pyridine was hydrogenated in a mixture of 100 ml of methanol, 10 ml of concentrated methanolic hydrochloric acid, and 1 gm of palladium/charcoal for 4.5 hours at ambient temperature with hydrogen gas at 5 bar. The catalyst was then removed by filtration, the filtrate was concentrated by evaporation, and the residue was triturated with acetone to form crystals, filtered, and then washed with a mixture of ether and acetone.

reactant | 2-(2'-dimethylamino-4'-nitrophenyl)-imidazo[4,5-b]pyridine | 2.83 gm | CN(C1=C(C=CC(=C1)[N+](=O)[O-])C=1NC=2C(=NC=CC2)N1)C | C14H13N5O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium/charcoal | 1 gm | [Pd] | Pd
product | 2-(2'-Dimethylamino-4'-amino-phenyl)-imidazo[4,5-b]pyridine dihydrochloride | Cl.Cl.CN(C1=C(C=CC(=C1)N)C=1NC=2C(=NC=CC2)N1)C | InChI=1S/C14H15N5.2ClH/c1-19(2)12-8-9(15)5-6-10(12)13-17-11-4-3-7-16-14(11)18-13;;/h3-8H,15H2,1-2H3,(H,16,17,18);2*1H
